US04910317
6-Methoxy-3-(1-methylethoxy)-benzo[b]thiophene-2-carboxylic acid
Isopropanol (16.8 g, 280 mmoles) is added dropwise to a stirred suspension of sodium hydride (11.2 g of a 60% dispersion in mineral oil, 280 mmoles) in tetrahydrofuran (50 mls) under argon. After 20 minutes a solution of 3-chloro-6-methoxybenzo[b]thiophene-2-carbonyl chloride (24.2 g, 93 mmoles) in warm tetrahydrofuran (180 mls) is added gradually during 5 minutes, and the mixture is heated under reflux. After 16 hours the mixture is cooled and stripped of solvent under reduced pressure. The residue is partitioned between water (600 mls) and ether (300 mls). The layers are separated and the aqueous phase extracted twice with ether (200 mls). The combined ether extracts are washed with saturated brine, dried over MgSO4, and stripped of solvent under reduced pressure to leave the crude ester as syrup which also contains mineral oil. The syrup is stirred in a mixture of methanol (20 mls) and 1N sodium hydroxide (100 mls), and heated under reflux. After 12 hours the mixture is stirred into water (600 mls) and extracted twice with ether (150 mls). The aqueous solution is stirred and acidified with concentrated HCl, and the resulting precipitate is filtered off, rinsed well with water, and dried to afford the product (11.7 g): mp=155°-156° C. (dec).

reactant | Isopropanol | 280 mmoles, 16.8 g | C(C)(C)O | C3H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-6-methoxybenzo[b]thiophene-2-carbonyl chloride | 93 mmoles, 24.2 g | ClC=1C2=C(SC1C(=O)Cl)C=C(C=C2)OC | C10H6Cl2O2S
reactant | water | 600 mls | O | H2O
solvent | tetrahydrofuran | 50 mls | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 mls | O1CCCC1 | C4H8O
solvent | methanol | 20 mls | CO | CH4O
solvent | sodium hydroxide | 1N, 100 mls | [OH-].[Na+]
product | 6-Methoxy-3-(1-methylethoxy)-benzo[b]thiophene-2-carboxylic acid | 11.7 g | COC=1C=CC2=C(SC(=C2OC(C)C)C(=O)O)C1 | C13H14O4S
